US04369312
2,2,2-Trichloroethyl 7-(N-methoxy-2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylate (490 mg) is dissolved in a mixture of methylene chloride (15 ml), acetic acid (4 ml) and dimethylformamide (4 ml), and under ice-cooling, zinc dust (400 mg) is added. The mixture is stirred at room temperature for 1.5 hours, at the end of which time acetic acid (10 ml), dimethylformamide (2 ml) and zinc dust (300 mg) are further added and stirred for another 1.5 hours. The reaction mixture is diluted with ethyl acetate and filtered. The filtrate is washed with 0.5 N-HCl and aqueous sodium chloride in that order, dried over magnesium sulfate and concentrated. The resultant crude crystals are washed with ether-ethyl acetate to give 7-(N-methoxy-2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid (141 mg).

reactant | 2,2,2-Trichloroethyl 7-(N-methoxy-2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylate | 490 mg | CON(C(COC1=CC=CC=C1)=O)C1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C19H19Cl3N2O6S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 400 mg | [Zn] | Zn
catalyst | zinc | 300 mg | [Zn] | Zn
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-(N-methoxy-2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid | 141 mg | CON(C(COC1=CC=CC=C1)=O)C1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C17H18N2O6S
